US07220773B2
Preparation for {3-[(1E)-3-t-butoxy-3-oxo-1-propenyl]phenyl}acetic acid
A mixture of m-bromophenylacetic acid (4.0 g, 18.6 mmol), t-butyl acrylate (4.85 g, 37.8 mmol), triethylamine (3.8 g, 37.6 mmol), tri-o-tolylphosphine (310 mg, 1.02 mmol) and palladium acetate (130 mg, 0.580 mmol) in N,N-dimethylformamide (50 ml) was stirred for 4 hours at 50° C. and then 10 hours at 90° C. The reaction mixture was diluted with an aqueous sodium hydrogencarbonate solution and washed with ethyl acetate. The aqueous layer was acidified (about pH 3) and extracted with ethyl acetate. The organic layer was washed with an aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure to give the crude subject compound (5.50 g).

reactant | m-bromophenylacetic acid | 18.6 mmol, 4.0 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | t-butyl acrylate | 37.8 mmol, 4.85 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | triethylamine | 37.6 mmol, 3.8 g | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 1.02 mmol, 310 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | palladium acetate | 0.580 mmol, 130 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | {3-[(1E)-3-t-butoxy-3-oxo-1-propenyl]phenyl}acetic acid | C(C)(C)(C)OC(/C=C/C=1C=C(C=CC1)CC(=O)O)=O | C15H18O4
